US06617341B1
N-(5-Iodo-4-trifluoromethylthiazol-2-yl)-3-trifluoromethylbenzamide (9.3 g was mixed with phosphorous pentachloride (4.2 g) and phosphorous oxychloride (25 ml) and the mixture was refluxed for 7 hr. The excess phosphorous oxychloride was removed under reduced pressure and the residue was mixed with cold water then extracted with chloroform. The extract was dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure then the residue was recrystallized from chloroform-n-hexane to give N-(5-iodo-4-trifluoromethylthiazol-2-yl)-3-trifluoromethylbenzimidoyl chloride as yellow needles (8.5 g), m. p. 136-137° C.

reactant | N-(5-Iodo-4-trifluoromethylthiazol-2-yl)-3-trifluoromethylbenzamide | IC1=C(N=C(S1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C(F)(F)F | C12H5F6IN2OS
reactant | phosphorous pentachloride | 4.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorous oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N-(5-iodo-4-trifluoromethylthiazol-2-yl)-3-trifluoromethylbenzimidoyl chloride | 8.5 g | IC1=C(N=C(S1)N=C(C1=CC(=CC=C1)C(F)(F)F)Cl)C(F)(F)F | C12H4ClF6IN2S
